US03989749
To a stirred solution of 4-acetoxynonylurea (2.4 g., 0.01 mole) in pyridine (10 ml.) is added p-toluene-sulfonyl chloride (2.0 g., excess) in one portion. The reaction is stirred at room temperature for six hours then poured into water (150 ml.). The aqueous mixture is extracted with ether (3 × 75 ml.), the ether is washed with 5% hydrochloric acid, brine, and dried over sodium sulfate. The solvent is removed in vacuo to give 4-acetoxynonylcyanamide as a residual oil.

reactant | 4-acetoxynonylurea | 0.01 mole, 2.4 g | C(C)(=O)OC(CCCNC(=O)N)CCCCC | C12H24N2O3
reactant | p-toluene-sulfonyl chloride | 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 150 ml | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetoxynonylcyanamide | C(C)(=O)OC(CCCNC#N)CCCCC | C12H22N2O2
